US20010006969A1
2-Allylamino-4-(2-methylpropoxycarbonyl)amino-6-nitroquinazoline
500 mg (2.04 mmol) of 2-allylamino-4-amino-6-nitroquinazoline was dissolved in 5 ml of DMF, and then 80 mg (2.33 mmol) of 70% sodium hydride and 280 mg (2.05 mmol) of 2-methylpropoxycarbonyl chloride were added thereto under ice cooling, followed by stirring for 3 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate, successive washing with brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 131 mg (19.1%) of the title compound.

reactant | 2-allylamino-4-amino-6-nitroquinazoline | 2.04 mmol, 500 mg | C(C=C)NC1=NC2=CC=C(C=C2C(=N1)N)[N+](=O)[O-] | C11H11N5O2
reactant | sodium hydride | 2.33 mmol, 80 mg | [H-].[Na+]
reactant | 2-methylpropoxycarbonyl chloride | 2.05 mmol, 280 mg | CC(COC(=O)Cl)C | C5H9ClO2
reactant | Water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-Allylamino-4-(2-methylpropoxycarbonyl)amino-6-nitroquinazoline | 131 mg, 19.1% | C(C=C)NC1=NC2=CC=C(C=C2C(=N1)NC(=O)OCC(C)C)[N+](=O)[O-] | C16H19N5O4
